US07902187B2
6-chloro-8-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine.
N,N-Dimethylacetamide (8 mL) containing 0.2% (v) glacial acetic acid was added to 6-chloro-N4-(tetrahydro-2H-pyran-4-yl)pyrimidine-2,4,5-triamine (preparation Route A) (400 mg, 1.64 mmol), followed by triethylorthoacetate (0.8 mL, 5.32 mmol, 3.2 equiv.), and the reaction mixture was heated at 160° C. in a closed vial for two days. The mixture was then poured into water, and the pH was brought to basic using a saturated solution of sodium bicarbonate. Multiple extractions with methylene chloride, washing of the combined organic layers with water, and evaporation of the solvent in vacuo gave a dark brown residue, which was purified by column chromatography (silica gel, gradual elution with 2% methanol in 4/2/1 hexanes/methylene chloride/ethyl acetate to 3% methanol in 4/2/1 hexanes/methylene chloride/ethyl acetate) to give 330 mg (75% yield) of desired product as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ, ppm: 4.67-4.57 (m, 1H), 4.11 (dd, J=11.5, 4.6 Hz, 2H), 3.61 (td, J=12.0, 1.5 Hz, 2H), 2.91-2.76 (m, 2H), 2.72 (s, 3H), 1.86 (br dd, J=12.5, 2.4 Hz, 2H); MS (EI) m/z 268.1 (MH)+.

reactant | N,N-Dimethylacetamide | 8 mL | CN(C(C)=O)C | C4H9NO
reactant | 6-chloro-N4-(tetrahydro-2H-pyran-4-yl)pyrimidine-2,4,5-triamine | ClC1=C(C(=NC(=N1)N)NC1CCOCC1)N | C9H14ClN5O
reactant | triethylorthoacetate | 5.32 mmol, 0.8 mL, 3.2 equiv. | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-chloro-8-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine | 330 mg, 75% yield | ClC1=C2N=C(N(C2=NC(=N1)N)C1CCOCC1)C | C11H14ClN5O
